US09085540B2
A mixture of 5-{[(3R)-1-benzylpyrrolidin-3-yl](methyl)amino}-6-ethyl-3-({3-methyl-4-[4-(4-methylpiperazin-1-yl)piperidin-1-yl]phenyl}amino)pyrazine-2-carboxamide (60 mg), and ethanol (21 mL) was reacted using a continuous hydrogenation reaction device (H-Cube (registered trademark); manufactured by ThalesNano) under the conditions of CatCart (registered trademark) 20% palladium hydroxide-supported carbon (manufactured by ThalesNano), a flow rate of 1 mL/min, a temperature of 50° C., and a pressure of 290 psi. The solvent was evaporated under reduced pressure to obtain 6-ethyl-3-(3-methyl-4-[4-(4-methylpiperazin-1-yl)piperidin-1-yl]phenyl amino)-5-{methyl[(3R)-pyrrolidin-3-yl]amino}pyrazine-2-carboxamide (38 mg) as a yellow solid.

reactant | 5-{[(3R)-1-benzylpyrrolidin-3-yl](methyl)amino}-6-ethyl-3-({3-methyl-4-[4-(4-methylpiperazin-1-yl)piperidin-1-yl]phenyl}amino)pyrazine-2-carboxamide | 60 mg | C(C1=CC=CC=C1)N1C[C@@H](CC1)N(C=1N=C(C(=NC1CC)C(=O)N)NC1=CC(=C(C=C1)N1CCC(CC1)N1CCN(CC1)C)C)C | C36H51N9O
catalyst | palladium hydroxide | [OH-].[Pd+2].[OH-]
solvent | ethanol | 21 mL | C(C)O | C2H6O
product | 6-ethyl-3-(3-methyl-4-[4-(4-methylpiperazin-1-yl)piperidin-1-yl]phenyl amino)-5-{methyl[(3R)-pyrrolidin-3-yl]amino}pyrazine-2-carboxamide | 38 mg | C(C)C1=C(N=C(C(=N1)C(=O)N)NC1=CC(=C(C=C1)N1CCC(CC1)N1CCN(CC1)C)C)N([C@H]1CNCC1)C | C29H45N9O
